US08138197B2
Methyl 4-(1-cyclopropyl-1H-pyrazol-4-yl)-3,5-diethoxybenzoate
To a mixture of methyl 3,5-diethoxy-4-(1H-pyrazol-4-yl)benzoate (20 mg), cyclopropylboronic acid (24 mg) in THF (2 ml) were added Cu(OAc)2 (37 mg), pyridine (45 ul) and TEA (48 ul) at room temperature and irradiated with microwave at 120° C. for 15 min. After cooling to room temperature, the mixture was diluted with EtOAc, filtered through celite pad and the filtrate was evaporated under reduced pressure. The residue was purified by p-TLC (hexane/EtOAc) to give the title product as a colorless solid.

reactant | methyl 3,5-diethoxy-4-(1H-pyrazol-4-yl)benzoate | 20 mg | C(C)OC=1C=C(C(=O)OC)C=C(C1C=1C=NNC1)OCC | C15H18N2O4
reactant | cyclopropylboronic acid | 24 mg | C1(CC1)B(O)O | C3H7BO2
reactant | pyridine | 45 ul | N1=CC=CC=C1 | C5H5N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Cu(OAc)2 | 37 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | Methyl 4-(1-cyclopropyl-1H-pyrazol-4-yl)-3,5-diethoxybenzoate | C1(CC1)N1N=CC(=C1)C1=C(C=C(C(=O)OC)C=C1OCC)OCC | C18H22N2O4
